US04962097
A solution of 7.00 g (0.037 moles) of 1-amino-2-cyclohexylethylphosphonous acid in 105 ml of dioxane and 40 ml of 1N NaOH was cooled to 0° C. in an ice bath and stirred vigorously while 10.50 ml (12.53 g; 0.073 moles) of benzyl chloroformate and 80 ml of 1N NaOH were added rapidly and simultaneously over a period of approximately 1 minute. The pH was adjusted to the 8-9 range using 1N NaOH (hydrion paper) added in small increments. The reaction mixture was allowed to come to room temperature, and vigorous stirring was continued for 48 hours. The dioxane was removed in vacuo and the aqueous washed with 100 ml of ether. The ether layer was discarded and the aqueous solution acidified using 1N KHSO4 to approximately pH=1-2 (hydrion paper). The solution was extracted with 5×100 ml of ethyl acetate. The combined ethyl acetate layers were dried over anhydrous Na2SO4, filtered, and evaporated in vacuo to afford N-CBZ-1-amino-2-cyclohexylethylphosphonous acid as a white solid.

reactant | 1-amino-2-cyclohexylethylphosphonous acid | 0.037 moles, 7.00 g | NC(CC1CCCCC1)P(O)O | C8H18NO2P
reactant | benzyl chloroformate | 0.073 moles, 10.50 ml, 12.53 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dioxane | 105 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 40 ml | [OH-].[Na+]
solvent | NaOH | 1N | [OH-].[Na+]
solvent | NaOH | 1N, 80 ml | [OH-].[Na+]
product | N-CBZ-1-amino-2-cyclohexylethylphosphonous acid | C(=O)(OCC1=CC=CC=C1)NC(CC1CCCCC1)P(O)O | C16H24NO4P
